US07718663B2
4-{[(1S,2R)-2-aminocyclohexyl]amino}-6-methylquinazoline-2-carboxylic acid ethyl ester dihydrochloride
To a solution of 14.5 g of 4-({(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-6-methylquinazoline-2-carboxylic acid ethyl ester in 600 ml of ethyl acetate, 68 ml of a 4N-hydrogen chloride-ethyl acetate solution was added under ice cooling, and then the mixture was stirred at room temperature for 11 hours. The deposited crystals were collected by filtration, washed with ethyl acetate and then dried to obtain 11.7 g of the desirable compound as a pink powder.

reactant | 4-({(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-6-methylquinazoline-2-carboxylic acid ethyl ester | 14.5 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(=O)OC(C)(C)C)C | C23H32N4O4
reactant | hydrogen chloride-ethyl acetate | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 4-{[(1S,2R)-2-aminocyclohexyl]amino}-6-methylquinazoline-2-carboxylic acid ethyl ester dihydrochloride | 11.7 g | Cl.Cl.C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)N)C | InChI=1S/C18H24N4O2.2ClH/c1-3-24-18(23)17-20-14-9-8-11(2)10-12(14)16(22-17)21-15-7-5-4-6-13(15)19;;/h8-10,13,15H,3-7,19H2,1-2H3,(H,20,21,22);2*1H/t13-,15+;;/m1../s1
